US07138399B2
G1. 2,3-Diamino-5-(3,4-dichlorphenyl)pyridine
0.051 g of ferric chloride and 0.085 g of activated charcoal are added to a suspension of 0.35 g of 2-amino-5-(3,4-dichlorphenyl)-3-nitropyridine (starting material G2) in 10 ml of methanol and the mixture is heated under reflux. 0.270 ml of hydrazine hydrate are added slowly and reflux is continued for 12 hours. After cooling the mixture is filtered and the filtrate is evaporated. The residue is partitioned between sodium-EDTA-solution (0.25M; pH 9–10) and dichloromethane. The organic phase is evaporated to give 0.20 g of the title compound as a yellowish solid of m.p. 202–204° C. The mass spectrum shows the molecular peak MH+ at 254.2 Da.

reactant | charcoal | 0.085 g | C | CH4
reactant | 2-amino-5-(3,4-dichlorphenyl)-3-nitropyridine | 0.35 g | NC1=NC=C(C=C1[N+](=O)[O-])C1=CC(=C(C=C1)Cl)Cl | C11H7Cl2N3O2
reactant | hydrazine hydrate | 0.270 ml | O.NN
solvent | methanol | 10 ml | CO | CH4O
product | 2,3-Diamino-5-(3,4-dichlorphenyl)pyridine | 0.20 g | NC1=NC=C(C=C1N)C1=CC(=C(C=C1)Cl)Cl | C11H9Cl2N3
